US07576238B2
To 2-{6-[1-ethyl-3-(4-trifluoromethoxyphenyl)ureido]-3-methoxy-5,6,7,8-tetrahydronaphthalen-2-ylsulfanyl}-2-methylpropionic acid tert butyl ester (0.02 g; 0.03 mmol) dissolved in CH2Cl2 (1.5 mL) was added TFA (1.5 mL) and the reaction mixture was stirred at room temperature for 1.5 h. The solvent was removed under reduced pressure and the residue was purified by reverse-phase semi-prep HPLC eluting with a MeCN—H2O gradient to yield 2-{6-[1ethyl-3-(4-trifluoromethoxyphenyl)ureido]-5,6,7,8-tetrahydronaphthalen-2-ylsulfanyl}-2-methylpropionic acid as a white solid.

reactant | 2-{6-[1-ethyl-3-(4-trifluoromethoxyphenyl)ureido]-3-methoxy-5,6,7,8-tetrahydronaphthalen-2-ylsulfanyl}-2-methylpropionic acid tert butyl ester | 0.03 mmol, 0.02 g | C(C)(C)(C)OC(C(C)(C)SC1=CC=2CCC(CC2C=C1OC)N(C(=O)NC1=CC=C(C=C1)OC(F)(F)F)CC)=O | C29H37F3N2O5S
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 2-{6-[1ethyl-3-(4-trifluoromethoxyphenyl)ureido]-5,6,7,8-tetrahydronaphthalen-2-ylsulfanyl}-2-methylpropionic acid | C(C)N(C(=O)NC1=CC=C(C=C1)OC(F)(F)F)C1CC=2C=CC(=CC2CC1)SC(C(=O)O)(C)C | C24H27F3N2O4S
